US07994203B2
To a stirring hazy solution of 2,4-dichloro-N-methoxy-N-methylbenzenecarboxamide (1 g, 4.27 mmol), in THF (20 ml) is added BuLi (2.051 ml, 5.13 mmol) in portions. The reaction is stirred for 4 hours at RT and the partitioned between 1M HCl (100 ml) and EtOAc (140 ml). The organic portion is washed with brine, dried over Na2SO4, and concentrated in vacuo. The crude product is purified by ISCO combiflash chromatography eluting with 0 to 100% EtOAc/iso-hexane on a 40 g silica-column to yield 1-(2,4-dichloro-phenyl)-pentan-1-one as a brown oil; 1H NMR (400 MHz, CDCl3) δ 7.45 (1H, d, J 2.0), 7.43 (1H, d, J 7.3), 7.32 (1H, dd, J 7.3, 2.0), 2.94 (2H, t, J 7.4), 1.70 (2H, m), 1.40 (2H, m), 0.95 (3H, t, J 7.3).

reactant | 2,4-dichloro-N-methoxy-N-methylbenzenecarboxamide | 4.27 mmol, 1 g | ClC1=C(C=CC(=C1)Cl)C(=O)N(C)OC | C9H9Cl2NO2
reactant | BuLi | 5.13 mmol, 2.051 ml | [Li]CCCC
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-(2,4-dichloro-phenyl)-pentan-1-one | ClC1=C(C=CC(=C1)Cl)C(CCCC)=O | C11H12Cl2O
